US06841549B1
2) 1-{2-[9-Allyl-6-amino-8-(3-fluoropheyl)-9H-2-purinyl]-1-ethyl}-1-cyclobutanol hydrochloride
A suspension of 1-{2-[9-allyl-6-chloro-8-(3-fluorophenyl)-9H-2-purinyl]-1-ethynyl}-1-cyclobutanol (45 g, 116.8 mmol) in 1,2-dimethoxyethane (900 ml)/conc. ammonia water (450 ml) was stirred in an autoclave at 70° C. for 5 hours. After cooling as it was, the reaction solution was diluted with an aqueous saturated ammonium chloride solution (×1) and ethyl acetate. The organic layer was washed with a saturated aqueous ammonium chloride solution (×1), dried over anhydrous sodium sulfate, and concentrated. The residue was suspended in diethyl ether, and the solid was collected by filtration and washed with diethyl ether, to give the title compound in free form (31.3 g, 98%). This free compound was suspended in 300 ml ethanol, dissolved by adding 26 ml of 5N hydrochloric acid, and concentrated. The residue was washed with diethyl ether and dried, to give 30 g of the title compound (yield 64%)

reactant | 1-{2-[9-allyl-6-chloro-8-(3-fluorophenyl)-9H-2-purinyl]-1-ethynyl}-1-cyclobutanol | 116.8 mmol, 45 g | C(C=C)N1C2=NC(=NC(=C2N=C1C1=CC(=CC=C1)F)Cl)C#CC1(CCC1)O | C20H16ClFN4O
reactant | ammonia water | 450 ml | O.N
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-{2-[9-Allyl-6-amino-8-(3-fluoropheyl)-9H-2-purinyl]-1-ethyl}-1-cyclobutanol hydrochloride | Cl.C(C=C)N1C2=NC(=NC(=C2N=C1C1=CC(=CC=C1)F)N)CCC1(CCC1)O | InChI=1S/C20H22FN5O.ClH/c1-2-11-26-18(13-5-3-6-14(21)12-13)25-16-17(22)23-15(24-19(16)26)7-10-20(27)8-4-9-20;/h2-3,5-6,12,27H,1,4,7-11H2,(H2,22,23,24);1H
